US04988681
Production of (Z)-8-dibutylamino-2-(hydroxyisobutylphosphinoyl)methyl-2-octenoic acid hydrochloride
Ethyl (Z)-8-dibutylamino-2-(ethoxyisobutylphosphinoyl)methyl-2-octenoate (200 mg; 0.43 millimole) was dissolved in 5 ml of concentrated hydrochloric acid, and the solution was stirred at 90° C. for 5.5 hours. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was purified by medium-pressure liquid chromatography [Lobar column (a product of E. Merck & Co.), size B, Lichroprep RP-18, methanol/water (7:3)] to give 178 mg (yield 94%) of the captioned compound as a pale yellow oil.

reactant | Ethyl (Z)-8-dibutylamino-2-(ethoxyisobutylphosphinoyl)methyl-2-octenoate | 0.43 millimole, 200 mg | C(CCC)N(CCCCC\C=C(\C(=O)OCC)/CP(=O)(CC(C)C)OCC)CCCC | C25H50NO4P
reactant | methanol water | CO.O
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | (Z)-8-dibutylamino-2-(hydroxyisobutylphosphinoyl)methyl-2-octenoic acid hydrochloride | 178 mg, yield 94% | Cl.C(CCC)N(CCCCC\C=C(\C(=O)O)/CP(=O)(CC(C)C)O)CCCC | InChI=1S/C21H42NO4P.ClH/c1-5-7-14-22(15-8-6-2)16-12-10-9-11-13-20(21(23)24)18-27(25,26)17-19(3)4;/h13,19H,5-12,14-18H2,1-4H3,(H,23,24)(H,25,26);1H/b20-13+;
